US07417009B2
Xylene (15 g), behenyl acrylate (15 g) and lauryl methacrylate (2 g), are charged to a reactor equipped with a stirrer, a heater, a thermometer and a nitrogen-bubbling duct. The reactor is flushed with nitrogen gas and sealed. Then vinyl acetate (2 g) is charged. The reactor is heated to 60° C. and 2,2′-azobis(2-methyl, ethyl-propionitrile) (0.06 g) is added. The reaction mixture is heated in the closed system at 80° C. for two hours to provide behenyl acrylate/lauryl methacrylate/vinyl acetate polymer having a number average molecular weight of 47,750 Daltons with polydispersity 4.5. The viscosity of the polymer is 168 cP at 20° C. as a 40% solution in toluene.

reactant | behenyl acrylate | 15 g | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C25H48O2
reactant | lauryl methacrylate | 2 g | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
solvent | Xylene | 15 g | C=1(C(=CC=CC1)C)C | C8H10
product | behenyl acrylate lauryl methacrylate vinyl acetate | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC.C(C(=C)C)(=O)OCCCCCCCCCCCC.C(C)(=O)OC=C | InChI=1S/C25H48O2.C16H30O2.C4H6O2/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-27-25(26)4-2;1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-3-6-4(2)5/h4H,2-3,5-24H2,1H3;2,4-14H2,1,3H3;3H,1H2,2H3
